US04604388
2-(2-Chloroethyl)-2,3-dihydro-4-methylnaphth[2,3-f][1,4]oxazepine-5(4H)-thione
To a solution of 16.6 g (0.06 mole) of 2-(2-chloroethyl)-2,3-dihydro-4-methylnaphth[2,3-f][1,4]oxazepin-5(4H)-one in 150 ml of dry toluene was added a mixture of 8.6 g (0.045 mole) of phosphorus pentasulfide and 8.6 g of potassium sulfide which had been ground together. The reaction mixture was stirred and heated at reflux for 24 hr. The mixture was filtered hot and the filtrate concentrated under reduced pressure. Yellow solid, 6.5 g (35%) was obtained which was recrystallized from ethanol, m.p. 166°-168° C.

reactant | 2-(2-chloroethyl)-2,3-dihydro-4-methylnaphth[2,3-f][1,4]oxazepin-5(4H)-one | 0.06 mole, 16.6 g | ClCCC1OC2=C(C(N(C1)C)=O)C=C1C=CC=CC1=C2 | C16H16ClNO2
reactant | phosphorus pentasulfide | 0.045 mole, 8.6 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | potassium sulfide | 8.6 g | [S-2].[K+].[K+]
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Chloroethyl)-2,3-dihydro-4-methylnaphth[2,3-f][1,4]oxazepine-5(4H)-thione | ClCCC1OC2=C(C(N(C1)C)=S)C=C1C=CC=CC1=C2 | C16H16ClNOS
